US06603012B2
Preparation of ethyl 4-nitrophenylacetate
10 g of 4-nitrophenylacetic acid dissolved in 100 ml of ethanol were treated with 3 ml of concentrated sulfuric acid. The mixture was heated to reflux for 18 hours. After cooling to room temperature, the mixture was neutralized with 2 N sodium hydroxide solution then was extracted with two portions of 200 ml ethyl acetate. The combined extracts were washed with one portion of 100 ml of saturated aqueous sodium chloride solution then dried over MgSO4 and concentrated in vacuo, yielding 11.5 g of a white solid that was used without purification. 1H NMR (CDCl3): 8.19 (d, J=8.8 Hz, 2H), 7.47 (d, J=8.8 Hz, 2H), 4.18 (q, J=7.1 Hz, 2H), 3.73 (s, 2H), 1.27 (t, J=7.1 Hz, 3H).

reactant | 4-nitrophenylacetic acid | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-nitrophenylacetate | 11.5 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)OCC | C10H11NO4
